### PR TITLE
Add Topic: Probability

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add the file Topics.Probability with some simple exercises about probability theory, independence of sets, definition of conditional probability and Bayes' theorem.

- [x] depends on: #12

### CODE REVIEW

**Comment by RemyDegenne** [comment]
You should also add the file to the list of topics files at the bottom of `03Forall.lean` (in both exercises and solutions).

File: GlimpseOfLean/Exercises/Topics/Probability.lean [hunk 1]
```diff
@@ -0,0 +1,122 @@
...
+We then state that `ℙ` is a probability measure. That is, `ℙ univ = 1`, where `univ : Set Ω` is the
+universal set in `Ω` (the set that contains all `x : Ω`). -/
+variable {Ω : Type} [MeasureSpace Ω] [IsProbabilityMeasure (ℙ : Measure Ω)]
+
+-- `A, B` will denote sets in `Ω`.
+variable {A B : Set Ω}
+
+/- One can take the measure of a set `A`: `ℙ A : ℝ≥0∞`.
+`ℝ≥0∞`, or `ENNReal`, is the type of extended non-negative real numbers, which contain `∞`.
+Measures can in general take infinite values, but since our `ℙ` is a probabilty measure,
```
Comment (pitmonticone) [inline GlimpseOfLean/Exercises/Topics/Probability.lean:36]:
```suggestion
Measures can in general take infinite values, but since our `ℙ` is a probability measure,
```

File: GlimpseOfLean/Solutions/Topics/Probability.lean [hunk 2]
```diff
@@ -0,0 +1,151 @@
...
+We then state that `ℙ` is a probability measure. That is, `ℙ univ = 1`, where `univ : Set Ω` is the
+universal set in `Ω` (the set that contains all `x : Ω`). -/
+variable {Ω : Type} [MeasureSpace Ω] [IsProbabilityMeasure (ℙ : Measure Ω)]
+
+-- `A, B` will denote sets in `Ω`.
+variable {A B : Set Ω}
+
+/- One can take the measure of a set `A`: `ℙ A : ℝ≥0∞`.
+`ℝ≥0∞`, or `ENNReal`, is the type of extended non-negative real numbers, which contain `∞`.
+Measures can in general take infinite values, but since our `ℙ` is a probabilty measure,
```
Comment (pitmonticone) [inline GlimpseOfLean/Solutions/Topics/Probability.lean:36]:
```suggestion
Measures can in general take infinite values, but since our `ℙ` is a probability measure,
```

File: GlimpseOfLean/Exercises/Topics/Probability.lean [hunk 3]
```diff
@@ -0,0 +1,122 @@
...
+or `measure_lt_top` to prove that `ℙ A ≠ ∞` or `ℙ A < ∞`.
+
+Hint: use `#check measure_ne_top` to see what that lemma does.
+
+The operations on `ENNReal` are not as nicely behaved as on `ℝ`: `ENNReal` is not a ring and
+subtraction truncates to zero for example. If you find that lemma `lemma_name` used to transform
+an equation does not apply to `ENNReal`, try to find a lemma named something like
+`ENNReal.lemma_name_of_something` and use that instead. -/
+
+/-- Two sets `A, B` are independent for the ambiant probability measure `ℙ` if
```
Comment (pitmonticone) [inline GlimpseOfLean/Exercises/Topics/Probability.lean:48]:
```suggestion
/-- Two sets `A, B` are independent for the ambient probability measure `ℙ` if
```

File: GlimpseOfLean/Solutions/Topics/Probability.lean [hunk 4]
```diff
@@ -0,0 +1,151 @@
...
+or `measure_lt_top` to prove that `ℙ A ≠ ∞` or `ℙ A < ∞`.
+
+Hint: use `#check measure_ne_top` to see what that lemma does.
+
+The operations on `ENNReal` are not as nicely behaved as on `ℝ`: `ENNReal` is not a ring and
+subtraction truncates to zero for example. If you find that lemma `lemma_name` used to transform
+an equation does not apply to `ENNReal`, try to find a lemma named something like
+`ENNReal.lemma_name_of_something` and use that instead. -/
+
+/-- Two sets `A, B` are independent for the ambiant probability measure `ℙ` if
```
Comment (pitmonticone) [inline GlimpseOfLean/Solutions/Topics/Probability.lean:48]:
```suggestion
/-- Two sets `A, B` are independent for the ambient probability measure `ℙ` if
```

**Review by pitmonticone — CHANGES_REQUESTED** [review]
There are a few minor typos. You can directly commit the suggested changes.

**Review by pitmonticone — APPROVED** [review]
Now it looks good to me.

**Comment by fpvandoorn** [comment]
For future reference: the script `mk_exercises.py` generates the exercise files from the solution files (if the solution file is properly marked with `-- sorry` comments)

**Comment by fpvandoorn** [comment]
The new probability file should probably get `-- sorry` commands so that the script also works for it.

**Comment by PatrickMassot** [comment]
Thanks! Indeed it needs to be adapted to work with `mk_exercises`.

**Review by pitmonticone — CHANGES_REQUESTED** [review]

**Comment by pitmonticone** [comment]
@LorenzoLuccioli You just need to commit the suggested changes and run: 

```bash
python3 mk_exercises.py
```

**Comment by pitmonticone** [comment]
Ok, now it looks good to me. 

Thank you again @LorenzoLuccioli!

File: GlimpseOfLean/Solutions/Topics/Probability.lean [hunk 5]
```diff
@@ -0,0 +1,186 @@
...
+  by_cases h : ℙ A = 0
+  · simp [h]
+  unfold condProb
+  rw [ENNReal.mul_div_cancel' h]
+  · rw [inter_comm]
+  · simp
+  -- sorry
+}
+
+-- Did you really need all those hypotheses?
```
Comment (fpvandoorn) [inline GlimpseOfLean/Solutions/Topics/Probability.lean:166]: This needs more explanation. What is division by 0? You have to explain that

File: GlimpseOfLean/Solutions/Topics/Probability.lean [hunk 6]
```diff
@@ -0,0 +1,186 @@
...
+  -- sorry
+}
+
+/- Many lemmas in measure theory require sets to be measurable (`MeasurableSet A`).
+If you are presented with a goal like `⊢ MeasurableSet (A ∩ B)`, try the `measurability` tactic.
+That tactic produces measurability proofs. -/
+
+-- Hints: `compl_eq_univ_diff`, `measure_diff`, `inter_univ`, `measure_compl`, `ENNReal.mul_sub`
+lemma IndepSet.compl_right (hA : MeasurableSet A) (hB : MeasurableSet B) :
+    IndepSet A B → IndepSet A Bᶜ := by {
```
Comment (fpvandoorn) [inline GlimpseOfLean/Solutions/Topics/Probability.lean:69]: It might be good practice to add another exercise that turns this into an `iff` (apply this lemma twice and use `compl_compl`)

**Review by fpvandoorn — COMMENTED** [review]
LGTM, but here are two comments.

**Comment by PatrickMassot** [comment]
I’m sorry this was somehow forgotten. Thanks Floris for the comments! @LorenzoLuccioli could you rebase this on the master branch? I promise we won’t let it rot a second time.

**Comment by fpvandoorn** [comment]
Thanks!
